US07452899B2
A solution of nBuLi (1.6 M in hexane, 3.45 ml, 5.53 mmol) was added dropwise at −78° C. to a stirred solution of 5-(4-fluorophenyl)-1,3-oxazole (0.82 g, 5.03 mmol) in THF (10 ml) (Organic Letters (2001),(3)2, 271-273). The mixture was stirred at −78° C. for 30 minutes and then quenched with DMF (0.43 ml, 5.53 mmol). It was gradually warmed to room temperature, stirred for further 30 minutes, diluted with Et2O (30 ml), then neutralised with 1N HCl. The organic layer was separated, washed with brine (20 ml), dried over MgSO4 and concentrated in vacuo. Purification by chromatography on silica gel eluting with DCM afforded 5-(4-fluorophenyl)-1,3-oxazole-2-carbaldehyde (0.58 g, 60%): δH (360 MHz, CDCl3) 7.18 (2H, t, J 8.6 ), 7.58 (1H, s), 7.77-7.81 (2H, m), 9.76 (1H, s); m/z (ES+) 192 (MH+).

reactant | nBuLi | 5.53 mmol, 1.6 M, 3.45 ml | [Li]CCCC
reactant | 5-(4-fluorophenyl)-1,3-oxazole | 5.03 mmol, 0.82 g | FC1=CC=C(C=C1)C1=CN=CO1 | C9H6FNO
reactant | DMF | 5.53 mmol, 0.43 ml | CN(C)C=O | C3H7NO
reactant | HCl | 1N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Et2O | 30 ml | CCOCC | C4H10O
product | 5-(4-fluorophenyl)-1,3-oxazole-2-carbaldehyde | 0.58 g, 60% | FC1=CC=C(C=C1)C1=CN=C(O1)C=O | C10H6FNO2
